US09061013B2
3-fluoro-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid ethylamide
To a stirred solution of 3-Fluoro-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid (Preparation 6, 0.2 g, 0.391 mmol) in dry DMF (3 mL) was added HATU (0.223 g, 0.58 mmol), HOBt (0.06 g, 0.43 mmol), DIPEA (0.102 g, 0.79 mmol) and 2M solution of ethyl amine in THF (2 mL) at 0° C. Resulting reaction mixture was stirred at room temperature for 18 hours under nitrogen atmosphere. After complete consumption of starting material, reaction mixture was quenched with water (20 mL), extracted with EtOAc (2×30 mL). Combined organic layer was washed with brine (2×20 mL), saturated solution of lithium chloride (2×20 mL), water (20 mL), dried over sodium sulphate and evaporated in vacuo to get crude. Crude was purified by column chromatography on silica gel (100-200 mesh size). Compound was eluted using 1% methanol in DCM to afford off white solid (0.20 g, 64%). 1H-NMR (400 MHz, CDCl3) δ: 1.15 (t, 3H, J=7.28 Hz), 2.67-2.78 (m, 2H), 2.84-2.96 (m, 2H), 3.22-3.26 (m, 1H), 3.28-3.35 (m, 2H), 3.67 (d, 1H, J=17.24 Hz), 4.07 (d, 1H, J=17.2 Hz), 5.43 (bs, 1H), 7.56 (d, 2H, J=8.36 Hz), 7.64-7.66 (m, 4H); LC-MS (m/z): [M−H] 535.00.

reactant | 3-Fluoro-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid | 0.391 mmol, 0.2 g | FC1(CC(C1)C(=O)O)C1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C21H14Cl3F4NO3
reactant | HATU | 0.58 mmol, 0.223 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 0.43 mmol, 0.06 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.79 mmol, 0.102 g | CCN(C(C)C)C(C)C | C8H19N
reactant | ethyl amine | C(C)N | C2H7N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-fluoro-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid ethylamide | 0.20 g, 64% | C(C)NC(=O)C1CC(C1)(C1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)F | C23H19Cl3F4N2O2
